US05131911
c/ Preparation of 3,5-dimethoxy-4-hydroxy-2-nitrobenzaldehyde
A suspension of 43 g (0.116 mole) of 4-acetoxy-1-diacetoxymethyl-3,5-dimethoxy-2-nitrobenzene in 500 cm3 of 2N hydrochloric acid is heated under reflux for 2 hours. The reaction mixture is left to return to ambient temperature, then the precipitate formed is filtered off. After washing with water and drying under vacuum, 25.8 g of the desired product is obtained in the form of a slightly yellow solid (yield=98%).

reactant | 4-acetoxy-1-diacetoxymethyl-3,5-dimethoxy-2-nitrobenzene | 0.116 mole, 43 g | C(C)(=O)OC1=C(C(=C(C=C1OC)C(OC(C)=O)OC(C)=O)[N+](=O)[O-])OC | C15H17NO10
solvent | hydrochloric acid | 2N, 500 cm3 | Cl | ClH
product | 3,5-dimethoxy-4-hydroxy-2-nitrobenzaldehyde | 25.8 g | COC=1C(=C(C=O)C=C(C1O)OC)[N+](=O)[O-] | C9H9NO6
